US05478856
A 1.8 g (9.88 mmol) of syringaldehyde, 1.4 g (12.0 mmol) of N-acetylglycine, 1 g (12.2 mmol) of sodium acetate and 5 ml of acetic anhydride were stirred at 120° C. for 6 hours. A precipitate was washed with water and ethanol in this order and dried under reduced pressure. To the product was added 80 ml of 0.1N hydrochloric acid, and the mixture was stirred at 90° C. for 1 hour. A crystal formed was washed with water and acetone in this order to give 880 mg (yield 31.7%) of objective αacetylamino-3,5-dimethoxy-4-hydroxycinnamic acid.

reactant | syringaldehyde | 9.88 mmol, 1.8 g | C(C1=CC(OC)=C(O)C(OC)=C1)=O | C9H10O4
reactant | N-acetylglycine | 12.0 mmol, 1.4 g | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | sodium acetate | 12.2 mmol, 1 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | αacetylamino-3,5-dimethoxy-4-hydroxycinnamic acid | 880 mg, yield 31.7% | C(C)(=O)NC(C(=O)O)=CC1=CC(=C(C(=C1)OC)O)OC | C13H15NO6
